US04063929
h. Benzyltrimethylammonium 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate
A 20% aqueous methanolic solution of the salt is prepared by slurrying 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid (22.2 g, 90% pure) in water (50 g) and adding a 40% solution of benzyltrimethylammonium methoxide (27 g) in methanol to pH 8. Additional water (0.8 g) is then added to give the desired concentration.

reactant | 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid | 22.2 g | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
reactant | benzyltrimethylammonium methoxide | 27 g | C[O-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | water | 50 g | O | H2O
solvent | methanol | CO | CH4O
solvent | water | 0.8 g | O | H2O
product | Benzyltrimethylammonium 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | 20% | ClC1=C(OC=2C=CC(=C(C(=O)[O-])C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F.C(C1=CC=CC=C1)[N+](C)(C)C | InChI=1S/C14H7ClF3NO5.C10H16N/c15-10-5-7(14(16,17)18)1-4-12(10)24-8-2-3-11(19(22)23)9(6-8)13(20)21;1-11(2,3)9-10-7-5-4-6-8-10/h1-6H,(H,20,21);4-8H,9H2,1-3H3/q;+1/p-1
